US04273782
A suspension of 1-ethoxycarbonylmethyl-3-(1-imidazolylmethyl)indole (1.42 g) in dry tetrahydrofuran (30 ml) was added portionwise to a stirred suspension of lithium aluminium hydride (0.19 g) in dry nitrogen. The mixture was heated under reflux with stirring for 6 hours, and then cooled and a further 0.19 g of lithium aluminium hydride was added. The mixture was heated under reflux with stirring for a further period of 3 hours and then cooled. Water (0.4 ml) was added cautiously with stirring and cooling followed by 5 N sodium hydroxide solution (0.4 ml) and a further 1.2 ml of water. The mixture was filtered and the filtrate was evaporated. The residue was chromatographed on silica gel, eluting with a mixture of chloroform and methanol (20:1) to give a solid. Crystallisation from ethyl acetate/petrol (b.p. 60°-80° C.) gave 1-(2-hydroxyethyl)-3-(1-imidazolylmethyl)indole, (0.55 g), m.p. 134°-135° C. Found: C, 69.75; H, 6.25; N, 17.46. C14H15N3O requires: C, 69.69; H, 6.27; N, 17.42%.

reactant | 1-ethoxycarbonylmethyl-3-(1-imidazolylmethyl)indole | 1.42 g | C(C)OC(=O)CN1C=C(C2=CC=CC=C12)CC=1NC=CN1 | C16H17N3O2
reactant | lithium aluminium hydride | 0.19 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | lithium aluminium hydride | 0.19 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Water | 0.4 ml | O | H2O
reactant | sodium hydroxide | 5 N, 0.4 ml | [OH-].[Na+]
reactant | water | 1.2 ml | O | H2O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 1-(2-hydroxyethyl)-3-(1-imidazolylmethyl)indole | 0.55 g | OCCN1C=C(C2=CC=CC=C12)CC=1NC=CN1 | C14H15N3O
